US07501412B2
Phenylacetonitrile (5.8 g), ethyl 1-ethoxycarbonylisonipecotate (11.5 g), sodium hydride (purity 60%, 2.0 g) and toluene (25 mL) were mixed, and the mixture was stirred at 80° C. for 3 hrs. After the completion of the reaction, the reaction mixture was cooled to room temperature, and the insoluble material was washed by decantation. The insoluble material was dissolved in water, and acetic acid was added to acidify the mixture, and the mixture was extracted with chloroform. The organic layer was dried over magnesium sulfate, and the solvent was evaporated. The obtained residue was subjected to silica gel column chromatography, and the fraction eluted with hexane:ethyl acetate=2:1 was concentrated to give α-(1-ethoxycarbonylpiperidin-4-yl)carbonylphenylacetonitrile (9.2 g) as an oil.

reactant | Phenylacetonitrile | 5.8 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | ethyl 1-ethoxycarbonylisonipecotate | 11.5 g | C(C)OC(=O)N1CCC(C(=O)OCC)CC1 | C11H19NO4
reactant | sodium hydride | 2.0 g | [H-].[Na+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | α-(1-ethoxycarbonylpiperidin-4-yl)carbonylphenylacetonitrile | 9.2 g | C(C)OC(=O)N1CCC(CC1)C(=O)C(C#N)C1=CC=CC=C1 | C17H20N2O3
